Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___
 
Chief Complaint:
found down, encephalopathy
 
Major Surgical or Invasive Procedure:
bedside debridement of sacral ulcer
 
History of Present Illness:
Mr. ___ is a ___ yo M with PMH osteopenia, htn, multiple 
falls s/p fractures, BPH with recurrent UTIs and bacteremia, h/o 
Cdiff x2 presented to ___ on ___ after being found 
down and confused last seen 24 hours prior with new ___. 

Poor history as pt is confused and tired on exam. He is able to 
tell me he was found down and that his friend ___ found him. 
Also able to tell me he does not remember events. I called his 
HCP ___, who stated he checks on him daily, last seen 
yesterday morning. when he went into his apartment today he 
found him on the ground and confused. He tried to lift him off 
the ground but he seems to be in pain so he called EMS. ___ 
he had also fallen the day before but was able to get off the 
ground himself. Baseline mental status is usually oriented 
without confusion and able to make decisions for self. 

On exam, pt is poorly taken care of with odor, poor foot care 
and increasing cellulitis I R>L ___ with edema. Poor dentition 
and L eye conjunctivitis. He is awake but lethargic on exam. 
Does wake up to name and holds a conversation in ___ but 
does not remember recent events. He is moving all extremities 
and ___ strength after several requests to do a strength exam. 
No TTP on any joints and able to bend knees, rotate B hips and B 
elbows. Mild TTP to R rib cage

Detailed list of recent admissions:
___: Admitted 2 days after d/c from rehab due to 
"unsafe living conditions" by ___. He was found to have a distal 
L DVT that was not treated (this was noted on ___ stay as 
well). Although there was concern for living conditions, pt was 
discharged home with extra services. He had capacity and refused 
other placement. notes from ___ with concern from ___ for "bugs 
and flies" in the apartment.

___: Found down for 24 hours at home with reports of 
unsafe living environment/clutter. Found to have pansensitive E. 
Coli UTI and bacteremia with total course of po cipro from 
___. He developed cdiff in house and was treated with 
po vancomycin for 2 additional weeks after end of ciprofloxacin. 
Fall was thought to be mechanical, and pt also had an arrhythmia 
thought to be aflutter that had resolved on discharge and was 
sent home on Toprol XL 25. Decision not to anticoagulated due to 
recurrent falls was made. He was discharged to a SNF. 

___: Recurrent LLE cellulitis and fall at home. Had 
been discharged from prior admission with po regimen that he was 
unable to fill and did not take. He was treated with a 14 day 
course of Keflex. Found to have distal LLE DVT that was 
untreated due to recurrent falls. Also had LLE ABI that showed 
significant calcifications in LLE arteries with ABI of 1.53. 
Discharged to home with ___ services.

___: mechanical fall treated for LLE cellulitis 
transitioned to po clindamycin and sent home with services. 
Never filled as per readmission above.

Review of systems:  
Unable to fully rely due to lethargic/AMS

 
Past Medical History:
Multiple falls/fractures
L distal DVT posterior tibial ___ not treated
h/o Cdiff s/p vancomycin
BPH with recurrent UTIs

PAST SURGICAL HISTORY:  L hip

 
Social History:
___
Family History:
non-contributory  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: T: afebrile, 98.2, HR 60, RR 18 BP 144/72, O2 sat 98% RA
Gen: NAD, resting, lethargic on exam
Eyes: EOMI, pinpoint pupils minimally reactive, pt with 
conjunctivitis of left eye with thick discharge and crusting
HENT: NCAT, trachea midline
CV: RRR, S1-S2, ___ holosystolic murmur did not appreciate 
radiation to carotids, 2+ edema to knees, 2+ ___ BLE, 6cm JVD
Lungs: Poor ability to listen to posterior fields but did have 
mild crackles at bases
GI: +BS, soft, NTTP, ND
GU: No foley
MSK: ___ strength bilaterally, intact ROM, moving all 
extremities without grimace to bending knee, hip or arms 
bilaterally. 
Neuro: Moving all extremities, no focal deficits, A+O to place, 
person, situation and year but lethargic on exam, falls asleep 
between sentences. Is moving all extremities and ___ strength 
with no focal deficits but lethargic
Skin: BLE venous stases changes with mild warmth B shins with R 
bullae formation on lateral shin, posterior sacral decub
Psych: Congruent affect, poor judgement as lethargic and unable 
to answer questions of what happened today

DISCHARGE PHYSICAL EXAM:
VITALS: 98.0PO 144 / 56 59 18 96 RA  
GENERAL: Alert and in no apparent distress.
EYES: Anicteric, pupils pinpoint
ENT: Ears and nose without visible erythema, masses, or trauma.  

CV: regular rate and rhythm, II/VI systolic murmur, no S3, no 
S4.
No JVD.
RESP: CTAB, no respiratory distress
GI: Abdomen soft, mildly distended, non-tender to palpation. 
Bowel sounds present.  +Ventral hernia
GU: No suprapubic fullness or tenderness to palpation
SKIN: B/L venous stasis changes.  Sacral wound dressed with 
clean dressing
NEURO: Alert, oriented x3, speech fluent, moves all limbs
PSYCH: pleasant, cooperative

 
Pertinent Results:
ADMISSION LABS:  
___ 
UA 7 WBC, Trace bl, Tr ___, Neg nit, few bac, RBC 5
Na 139, K 4.5, Cr 1.6, BUN 44, Gluc 103, HCO3 21, AG 22, 
Lactate 2.3
Ca 9.5, Mag 2.4, Phos 4.9
WBC 8.5, Hgb 11.9, Hct 36.8, Plt 204 
 

STUDIES:  
___ CT cspine
1. No evidence of acute fracture or traumatic malalignment. 
2. 9 mm left thyroid lobe nodule.  No follow-up imaging is 
recommended per ACR  guidelines on incidentally discovered 
thyroid nodules. 
3. Mild to moderate diffuse subcutaneous soft tissue swelling 
compatible with  a degree of anasarca. 

___ CT Head
1. No evidence of an acute intracranial abnormality. 
2. Chronic ischemic disease as described in the findings. 
3. Mild paranasal sinus disease. 
4. Multiple dental caries and a large periapical lucency 
involving ___ 10  through 12, minimally changed since ___. 

___ CXR
IMPRESSION:   
Borderline cardiomegaly, probably unchanged. 
Mild CHF. 

___ TTE:
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is mild 
regional left ventricular systolic dysfunction with with focal 
akinesis fo the basal to mid inferior and hypokinesis of the 
basal to mid inferoseptal walls. . Overall left ventricular 
systolic function is mildly depressed (LVEF= 45-50 %). The 
estimated cardiac index is normal (>=2.5L/min/m2). Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). Right ventricular chamber size is normal 
The aortic root is mildly dilated at the sinus level. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. Mild 
(1+) aortic regurgitation is seen. The aortic regurgitation jet 
is eccentric, directed toward the anterior mitral leaflet. The 
mitral valve leaflets are mildly thickened. Physiologic mitral 
regurgitation is seen (within normal limits). The tricuspid 
valve leaflets are mildly thickened. The pulmonary artery 
systolic pressure could not be determined. There is no 
pericardial effusion. 

IMPRESSION: Suboptimal image quality. Mild regional left 
ventricular systolic dysfunction c/w CAD. Mild, eccentric aortic 
regurgitation. Thoracic aortic dilatation.
No convincing pneumonic infiltrate..  No frank consolidation or 
gross 
effusion. Minimal left costophrenic angle blunting is probably 
unchanged. 
Minimally displaced fractures of the right seventh and eighth 
posterolateral ribs.  The eighth rib fracture is probably not 
acute.  The right seventh rib fractures is of indeterminate 
acuity--presence or absence of focal tenderness on physical exam 
may help to assess for acuity. 
  
No pneumothorax detected. 

LLE DOPPLERS ___:
No evidence of DVT in the left lower extremity.  Moderate 
diffuse soft tissue 
edema in the lower extremities. 

KUB ___:
Limited view of the lower abdomen only.  There is mild to 
moderate fecal 
retention in the right colon.  The stomach is air-filled and 
prominent.  
Nonobstructive bowel gas pattern.  No large pockets of free air. 
 Partially imaged left hip replacement.  Views of the lower 
lumbar spine demonstrate degenerative change. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo M with PMH HTN, multiple falls s/p 
fractures, BPH with recurrent UTIs and bacteremia, h/o Cdiff x2 
presented to ___ on ___ after being found down and 
confused.  Found to have ___, and elevated trops, now resolved. 

#  Acute on Chronic encephalopathy
The patient presented with worsening confusion in the setting of 
acute renal failure and abnormal cardiac enzymes. Mental status 
improved with IVF's and supportive care.

# Type 2 NSTEMI
The patient was noted to have significantly elevated pro-BNP and 
troponin on admission. He was asymptotic and had no signs of 
volume overload. He underwent ECHO which showed slightly reduced 
EF and likely WMA. He was seen by cardiology who recommended 
starting a statin and a stress test. Ultimately patient decided 
he would not want intervention should stress test be positive 
therefore test canceled. He was continued on aspirin and Plavix.

#  Acute renal failure on CKD stage II - Cr 1.6, BUN 44 with 
baseline Cr 1.1-1.2. Likely prerenal ___ d/t poor PO intake as 
it resolved with IVF's.

#  Distal LLE DVT  
Patient with DVT in left posterior tibial vein seen on 
ultrasound on ___ which was not treated in setting of multiple 
falls. Pt has not had significant HD instability, CP, SOB, or 
hypoxia to suggest PE.  Repeat ___ did not show DVT so he was 
not further anti-coagulated.

# BLE Cellulitis 
R>L with +bullae formation mild warmth, likely more venous 
stasis changes. He was treated briefly with antibiotics but 
these were discontinued as he was felt not to be infected.

# L eye conjunctivitis
+conjunctivitis with thick discharge and crusting in L>R eye.  
Treated with erythromycin ointment with improvement. 
 
#  Recurrent Fall
#  Right rib fractures 
___ evaluated patient and recommended SNF however patient was 
adamantly refusing at first - desired to go home however has 
known history of self-neglect and refusing home health agencies 
at home and stated he did not wish to have someone in his home 
at all times. Palliative and hospice was discussed with patient 
and he was initially interested however then decided against 
this after speaking to a hospice representative. He ultimately 
agreed to SNF placement after extensive discussion explaining 
why patient was not safe to go home unless he had 24 hour care. 

#  Recurrent Cdiff x2
Pt with multiple episodes of c.diff prior to admission, s/p 
vancomycin courses, all due to abx use for UTIs.  He was given 
prophylactic vancomycin while on abx for cellulitis, this was 
discontinued when antibiotics were stopped.

# H/o arrhythmia 
h/o recent admission for ? aflutter. Decision not to 
anticoagulate and left on Toprol XL. 

#Sacral ulcer
Debrided at bedside by general surgery, seen by wound nurse for 
dressing recs.  Will see Surgery in f/u as OP.

Greater than 30 minutes spent on discharge counseling and 
coordination of care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES TID 
2. Finasteride 5 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 20 mg PO QPM  
3.  Bisacodyl ___AILY:PRN constipation  
4.  Docusate Sodium 100 mg PO BID  
5.  Senna 8.6 mg PO QHS  
6.  Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES TID  
7.  Finasteride 5 mg PO DAILY  
8.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
9.  Metoprolol Succinate XL 25 mg PO DAILY  
10.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute renal failure
Encephalopathy
Heart failure with reduced EF

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your admission to 
___. You were admitted after you were found on the ground and 
you were noted to have renal failure (damage to your kidneys) 
and possible damage to your heart. You were seen by the 
cardiologists who recommended a stress test but this was not 
done as you did not want any intervention for the results.

We are discharging you to a rehab facility so you can get the 
help you need.

Please return if you have worsening fevers, chills, pain, or if 
you have any other concerns.
 
Followup Instructions:
___